US09382228B2
A mixture of N-((5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)carbamoyl)isobutyramide (0.136 g, 0.390 mmol), K2CO3 (0.108 g, 0.780 mmol) and 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)morpholine (0.136 g, 0.468 mmol) in dioxane (8 mL) and water (2 mL) was sparged with Ar, treated with Pd(PPh3)4 (0.045 g, 0.039 mmol), sparged again with Ar and heated at 95° C. overnight. The mixture was cooled to RT, treated with EtOAc and the solids removed via filtration through a pad of diatomaceous earth and Na2SO4. The filtrate was concentrated to dryness and purified via silica gel chromatography (MeOH/DCM). The material was purified twice more via silica gel chromatography (MeOH/EtOAc). The resulting material was treated with Et2O, sonicated and the solid collected via filtration to afford N-((6-methyl-5-((2′-morpholino-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)isobutyramide (52 mg, 28%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.05 (s, 1H), 10.84 (s, 1H), 8.54 (d, J=5.6 Hz, 1H), 8.21 (d, J=5.2 Hz, 1H), 7.92 (d, J=8.8 Hz, 1H), 7.73 (d, J=2.4 Hz, 1H), 7.65 (d, J=8.8 Hz, 1H), 7.44 (s, 1H), 7.30 (dd, J=5.2, 1.3 Hz, 1H), 6.80 (dd, J=5.6, 2.4 Hz, 1H), 3.70 (m, 4H), 3.51 (m, 4H), 2.66 (m, 1H), 2.27 (s, 3H), 1.09 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 477.3 (M+H+).

reactant | N-((5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)carbamoyl)isobutyramide | 0.390 mmol, 0.136 g | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C)NC(=O)NC(C(C)C)=O | C16H17ClN4O3
reactant | K2CO3 | 0.780 mmol, 0.108 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)morpholine | 0.468 mmol, 0.136 g | CC1(OB(OC1(C)C)C1=CC(=NC=C1)N1CCOCC1)C | C15H23BN2O3
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.039 mmol, 0.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((6-methyl-5-((2′-morpholino-[2,4′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)isobutyramide | 52 mg, 28% | CC1=C(C=CC(=N1)NC(=O)NC(C(C)C)=O)OC1=CC(=NC=C1)C1=CC(=NC=C1)N1CCOCC1 | C25H28N6O4
